US08709994B2
2-[2-(3-tert-butylcyclohexyl)ethyl]-1,3-dioxolane (62 g, 0.22 mol, gc purity of 87%) and dichloromethane/acetone in a 4:1 ratio (3.7 L) were charged into a 5 L three-necked round-bottom flask equipped with a reflux condenser and a mechanical stirrer. Iron (III) chloride hexahydrate (212.3 g, 0.78 mol, 3.5 eq) was added to the reaction at ambient temperature. The reaction mixture was then stirred at ambient temperature for 4 h and subsequently quenched, at 5-10° C., with the addition of a saturated aqueous NaHCO3 (500 mL). The organic phase was then washed with brine (500 mL), dried over magnesium sulphate and concentrated. The resulting crude product was distilled via a Vigreux column (0.5 mBar, 82-85° C.), to give colourless oil (34.7 g, gc purity 79%). The oil was chromatographed on a silica gel column with 2% EtOAc in hexane as elution agent giving 3-(3-tert-butylcyclohexyl)propanal (17.8 g, gc purity>98%, ratio cis:trans 75:25; yield 40%).

reactant | 2-[2-(3-tert-butylcyclohexyl)ethyl]-1,3-dioxolane | 0.22 mol, 62 g | C(C)(C)(C)C1CC(CCC1)CCC1OCCO1 | C15H28O2
catalyst | Iron (III) chloride hexahydrate | 0.78 mol, 212.3 g, 3.5 eq | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
solvent | dichloromethane acetone | ClCCl.CC(=O)C
product | 3-(3-tert-butylcyclohexyl)propanal | 17.8 g, yield 40% | C(C)(C)(C)C1CC(CCC1)CCC=O | C13H24O
